Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Ventral hernia
 
Major Surgical or Invasive Procedure:
1. Reduction and primary repair, 2 incarcerated ventral hernias.
2. Polypropylene mesh overlay prosthesis.

 
History of Present Illness:
Ms ___ is a ___ with PMH obesity, DM, nephropathy, 
nephrolithiasis status post Robotic R pyeloplasty with Dr. 
___, presenting with a periumbilical hernia that has been 
present and growing for a few years and is now bothersome. She 
developed a periumbilical hernia afterwards that has not been 
symptomatic from an obstructive standpoint, but she does note 
that the size of the hernia has been increasing. The hernia also 
changes in size during the day and she can hear gas in the 
hernia. She denies constipation, abd pain, fevers, chills, night 
sweats. 
 
Past Medical History:
- Type II DM complicated by nephropathy
- Right-sided nephrolithiasis, hydroureteronephrosis ___, 
___
- Dyslipidemia
- Obesity and metabolic syndrome
- H/o Amenorrhea
- H/o ASCUS in ___
- H/o positive PPD s/p treatment with INH
- Umbilical hernia
- Diverticulosis

 
Social History:
___
Family History:
Mother deceased at ___. Father living at age ___ and healthy. Most 
of her ___ medical history is unknown as most relatives live 
in ___. 

 
Physical Exam:
 Discharge Physical Exam:  
 VS:  AVSS
 GEN: AA&O x 3, NAD, calm, cooperative.  
 HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI  
 CHEST: Clear to auscultation bilaterally, (-) cyanosis.  
 ABDOMEN: soft, attp, incision sites are c/d/i covered with 
staples and abdominal binder. Umbilicus is absent  
 EXTREMITIES: Warm, well perfused, no edema  
 
Pertinent Results:
___ 01:57PM   GLUCOSE-209* UREA N-6 CREAT-0.3* SODIUM-135 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-23 ANION GAP-14
___ 01:57PM   estGFR-Using this
___ 01:57PM   CALCIUM-8.3* PHOSPHATE-4.5 MAGNESIUM-1.5*
___ 01:57PM   WBC-12.3*# RBC-4.13 HGB-11.8 HCT-36.3 MCV-88 
MCH-28.6 MCHC-32.5 RDW-12.1 RDWSD-38.9
___ 01:57PM   WBC-12.3*# RBC-4.13 HGB-11.8 HCT-36.3 MCV-88 
MCH-28.6 MCHC-32.5 RDW-12.1 RDWSD-38.9
 
Brief Hospital Course:
The patient presented for scheduled open repair of ventral 
hernia. Please see operation note for full details. After a 
brief, uneventful stay in the PACU, the patient arrived to the 
floor. The patient was hemodynamically stable. Post-operative 
pain was initially well controlled with Dilaudid  PCA, which was 
converted to oral pain medication when tolerating clear liquids. 
On POD1 she was out of bed to the chair, taking clears, O2 
weaned. On POD2, her foley came out and she voided well. Her 
diet was advanced to full liquid diet. On POD3, she had flatus, 
and she was advanced to a regular diet. On POD4, she was given 
miralax to help her move her bowels. She was discharged on POD4.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
Atorvastatin 20mg daily
Losartan 25mg daily
Metformin 1000mg BID

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 500 mg 1000 tablet(s) by mouth every eight (8) 
hours Disp #*80 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth bid prn Disp 
#*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*26 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Incarcerated ventral hernia x2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
repair of an incarcerated ventral hernia. You were found to have 
a hernia that was larger than expected, and a second hernia was 
identified and repaired as well. You have recovered from surgery 
in the hospital and are now ready to be discharged to home. 
Please follow the recommendations below to ensure a speedy and 
uneventful recovery. 
 
 
ACTIVITY:
 
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
 
- You may climb stairs. 
 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
 
- You may start some light exercise when you feel comfortable, 
but avoid any activities that involve lifting greater than 6 
pounds or straining. We will discuss additional physical 
activity at your next postoperative visit. You may need 
assistance with activities and chores while at home that involve 
physical labor due to your activity restrictions. 

- You will have visiting nurses to assist with the abdominal 
drain and binder. Please follow their recommendations.
 
HOW YOU MAY FEEL: 
 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
 
- You may have a sore throat because of a tube that was in your 
throat.
 
 
YOUR BOWELS:
 
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace) or gentle laxative (such as Miralax or milk of 
magnesia) twice a day. You can get both of these medicines 
without a prescription.
 
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon or come to the 
emergency room immediately.
 
 
PAIN MANAGEMENT:
 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the following, please contact your 
surgeon:
 
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon Dr. ___. 

 
Followup Instructions:
___